US09289430B2
5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)-benzamide
Into a 100-mL round bottom flask, was placed a solution of 1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-amine (520 mg, 2.29 mmol, 1.00 equiv) in dichloromethane (5 mL), pyridine (540 mg, 6.84 mmol, 3.00 equiv), and 5-chloro-2-nitrobenzoyl chloride (500 mg, 2.27 mmol, 1.00 equiv). The resulting solution was stirred for 1 h at room temperature. The resulting mixture was washed with 2×50 mL of water, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1). This resulted in 800 mg (85%) of product as a yellow solid.

reactant | 1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-amine | 2.29 mmol, 520 mg, 1.00 equiv | FC(C=1C=C(C=CC1)N1N=C(C=C1)N)(F)F | C10H8F3N3
reactant | pyridine | 6.84 mmol, 540 mg, 3.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 5-chloro-2-nitrobenzoyl chloride | 2.27 mmol, 500 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)-benzamide | 800 mg, 85% | ClC=1C=CC(=C(C(=O)NC2=NN(C=C2)C2=CC(=CC=C2)C(F)(F)F)C1)[N+](=O)[O-] | C17H10ClF3N4O3
